US07932282B2
A mixture of 3-methyl-1-(2-methyl-3-pyridinyl)-2-oxo-4-imidazolidinecarboxylic acid TFA salt (279 mg, 0.8 mmol), 1-hydroxybenzotriazole hydrate (147 mg, 0.96 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (184 mg, 0.96 mmol) and N-ethyl morpholine (0.613 ml, 4.8 mmol) in dichloromethane (18 ml) was stirred at room temperature for 10 minutes. A solution of [1-(2,4-dichlorophenyl)methyl]amine (141 mg, 0.8 mmol) in dichloromethane (2 ml) was added and the reaction stirred at room temperature for 4 hours. The mixture was partitioned between dichloromethane and saturated sodium hydrogen carbonate solution. The organic phase was separated, washed with water and brine, dried and evaporated. The residue was purified by silica gel chromatography eluting with 0-10% methanol in dichloromethane to give N-[(2,4-dichlorophenyl)methyl]-3-methyl-1-(2-methyl-3-pyridinyl)-2-oxo-4-imidazolidinecarboxamide (147 mg, 47%). LC/MS [M+H]+=393, retention time=1.76 minutes.

reactant | 3-methyl-1-(2-methyl-3-pyridinyl)-2-oxo-4-imidazolidinecarboxylic acid TFA salt | 0.8 mmol, 279 mg | OC(=O)C(F)(F)F.CN1C(N(CC1C(=O)O)C=1C(=NC=CC1)C)=O
reactant | 1-hydroxybenzotriazole hydrate | 0.96 mmol, 147 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.96 mmol, 184 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N-ethyl morpholine | 4.8 mmol, 0.613 ml | C(C)N1CCOCC1 | C6H13NO
reactant | [1-(2,4-dichlorophenyl)methyl]amine | 0.8 mmol, 141 mg | ClC1=C(C=CC(=C1)Cl)CN | C7H7Cl2N
solvent | dichloromethane | 18 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-[(2,4-dichlorophenyl)methyl]-3-methyl-1-(2-methyl-3-pyridinyl)-2-oxo-4-imidazolidinecarboxamide | 147 mg, 47% | ClC1=C(C=CC(=C1)Cl)CNC(=O)C1N(C(N(C1)C=1C(=NC=CC1)C)=O)C | C18H18Cl2N4O2
